US07429609B2
Acetic acid 2-(N′-benzyloxycarbonyl-hydrazino)-2-oxo-ethyl ester
To a solution of 2.04 g of hydrazine carboxylic acid benzyl ester in 40 mL of dichloromethane was added 2.57 mL of triethylamine. Under ice cooling, a solution of 1.32 mL of acetoxyacetylchloride in 20 mL of dichloromethane was added dropwise over 25 minutes, and stirred at room temperature for 1 hour. The reaction solution was added with water, extracted with ethyl acetate, and the resultant organic layer was washed with 1N hydrochloric acid, saturated aqueous sodium hydrogen carbonate and saturated brine, and then dried over magnesium sulfate. The solvent was evaporated, and the resulting solid product was washed with diethyl ether and collected by filtration, to give 1.92 g of the title compound as white crystals.

reactant | hydrazine carboxylic acid benzyl ester | 2.04 g | C(C1=CC=CC=C1)OC(=O)NN | C8H10N2O2
reactant | triethylamine | 2.57 mL | C(C)N(CC)CC | C6H15N
reactant | acetoxyacetylchloride | 1.32 mL | C(C)(=O)OCC(=O)Cl | C4H5ClO3
reactant | water | O | H2O
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | Acetic acid 2-(N′-benzyloxycarbonyl-hydrazino)-2-oxo-ethyl ester | 1.92 g | C(C1=CC=CC=C1)OC(=O)NNC(COC(C)=O)=O | C12H14N2O5
